US09403818B2
Preparation of (3-methyl-4-chloro-pyridin-2-yl)-cyclopropyl-methanone
A solution of (3-methyl-4-chloro-pyridin-2-yl)-cyclopropyl-methanol (7.01 g, 35.5 mmol) in DCM (80 mL) was treated with MnO2 (30.8 g, 355 mmol) at room temperature overnight. The reaction mixture was filtered through a pad of Celite and the filtrate was concentrated to dryness, affording the title compound (6.82 g, 98%).

reactant | (3-methyl-4-chloro-pyridin-2-yl)-cyclopropyl-methanol | 35.5 mmol, 7.01 g | CC=1C(=NC=CC1Cl)C(O)C1CC1 | C10H12ClNO
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 355 mmol, 30.8 g | O=[Mn]=O
product | (3-methyl-4-chloro-pyridin-2-yl)-cyclopropyl-methanone | 6.82 g, 98% | CC=1C(=NC=CC1Cl)C(=O)C1CC1 | C10H10ClNO
